US06706725B1
c) [5-(3-Bromo-5-thienylmethoxy)-2-hydroxymethyl-phenyl]methanol
27 g (76 mmol) of dimethyl 4-(3-bromo-5-thienylmethoxy)phthalate are dissolved in 200 mL of anhydrous THF. This solution is added dropwise to a suspension of 4 g (183 mmol) of lithium borohydride in 50 mL of THF. The reaction medium is refluxed for 24 h and then cooled and poured onto 200 g of ice. After extraction with ether and then chromatography on a column of silica (eluent: 5 heptane/5 ethyl acetate), the desired product is obtained in the form of a yellow oil (m=22.1 g; Y=88%).

reactant | dimethyl 4-(3-bromo-5-thienylmethoxy)phthalate | 76 mmol, 27 g | BrC1=CSC(=C1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C15H13BrO5S
reactant | lithium borohydride | 183 mmol, 4 g | [BH4-].[Li+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | [5-(3-Bromo-5-thienylmethoxy)-2-hydroxymethyl-phenyl]methanol | BrC1=CSC(=C1)COC=1C=CC(=C(C1)CO)CO | C13H13BrO3S
